US07723345B2
To a mixture of 3,4-dimethoxy phenylamine (0.306 g, 2 mmol) and triethylamine (0.557 ml, 4 mmol) in dichloromethane (20 ml) was added 5-chloro-pyrazine-2-carbonyl chloride (0.354 g, 2 mmol) at 0-5° C. The mixture was allowed to stir at room temperature for 3 hours. The mixture was diluted with methylene chloride (20 ml), washed with saturated NaHCO3 (20 ml), brine (20 ml), dried (anhyd. Na2SO4) and concentrated to get 0.42 g of crude 5-chloro-pyrazine-2 carboxylic acid (3,4-dimethoxy-phenyl)-amide, which was directly used in the next reaction.

reactant | 3,4-dimethoxy phenylamine | 2 mmol, 0.306 g | COC=1C=C(C=CC1OC)N | C8H11NO2
reactant | triethylamine | 4 mmol, 0.557 ml | C(C)N(CC)CC | C6H15N
reactant | 5-chloro-pyrazine-2-carbonyl chloride | 2 mmol, 0.354 g | ClC=1N=CC(=NC1)C(=O)Cl | C5H2Cl2N2O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 5-chloro-pyrazine-2 carboxylic acid (3,4-dimethoxy-phenyl)-amide | 0.42 g | COC=1C=C(C=CC1OC)NC(=O)C1=NC=C(N=C1)Cl | C13H12ClN3O3
